US08003806B2
(a) Ethyl 3-{5-[(3-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate
To a solution of ethyl 3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate (250 mg, 809 μmol) in dichloromethane (15 mL) was added triethylamine (280 μL, 2.03 mmol), 3-nitrobenzoyl chloride (375 mg, 2.03 mmol) and DMAP (10 mg, 81 μmol). The solution was stirred at room temperature for 144 hours, and was then evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (97:3) to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=5.53 min, MH+ 459].

reactant | ethyl 3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | 809 μmol, 250 mg | NC1=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C=C1 | C18H19N3O2
reactant | triethylamine | 2.03 mmol, 280 μL | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 2.03 mmol, 375 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | DMAP | 81 μmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl 3-{5-[(3-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=CC1 | C25H22N4O5
